US07119102B2
A N2-purged suspension of 3-Amino-6-{4-[2-(5-bromo-pyridin-2-yl)-2-hydroxy-ethylamino]-piperidin-1-yl}-4-trifluoromethyl-thieno[2,3-b]pyridine-2-carboxylic acid amide (60 mg, 0.107 mmol), (3-methylsulfonylphenyl)boronic acid (24 mg, 0.118 mmol), tetrakis(triphenylphosphine)palladium(0) (19 mg, 0.016 mmol), and potassium carbonate (30 mg, 0.214 mmol) in dry DMF (4 ml) and water (1 ml) was sealed and heated to 85° C. for 18h. The crude reaction mixture was applied to a celite plug and purified by SiO2 chromatography (0–25% MeOH/CH2Cl2 with 1% NH4OH). Fractions containing product were pooled and concentrated. The solid yellow residue was dissolved in 1 ml DMF, applied to a 2 mm prep plate (Merck) and eluted twice with 10% MeOH/CH2Cl2 with 1% NH4OH. The recovered yellow residue was dissolved in 0.5 ml water, 2 ml MeOH, 10 ml CH2Cl2, and 10 ml EtOAc and crystallized by the addition of 50 ml hexanes to give 29.0 mg, 42.3% of 3-Amino-6-(4-{2-hydroxy-2-[5-(3-methanesulfonyl-phenyl)-pyridin-2-yl]-ethylamino}-piperidin-1-yl)-4-trifluoromethyl-thieno[2,3-b]pyridine-2-carboxylic acid amide product. ES+ 635.1 m/z (MH+).

reactant | 3-Amino-6-{4-[2-(5-bromo-pyridin-2-yl)-2-hydroxy-ethylamino]-piperidin-1-yl}-4-trifluoromethyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 0.107 mmol, 60 mg | NC1=C(SC2=NC(=CC(=C21)C(F)(F)F)N2CCC(CC2)NCC(O)C2=NC=C(C=C2)Br)C(=O)N | C21H22BrF3N6O2S
reactant | (3-methylsulfonylphenyl)boronic acid | 0.118 mmol, 24 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | potassium carbonate | 0.214 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.016 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Amino-6-(4-{2-hydroxy-2-[5-(3-methanesulfonyl-phenyl)-pyridin-2-yl]-ethylamino}-piperidin-1-yl)-4-trifluoromethyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 29.0 mg, 42.3% | NC1=C(SC2=NC(=CC(=C21)C(F)(F)F)N2CCC(CC2)NCC(C2=NC=C(C=C2)C2=CC(=CC=C2)S(=O)(=O)C)O)C(=O)N | C28H29F3N6O4S2
